US08426411B2
To a slurry of 20 wt % Pd(OH)2 on C (0.605 g, 0.862 mmol) in EtOH (75 mL) was added a solution of (2R,4S)-tert-butyl 4-azido-2-methylpyrrolidine-1-carboxylate (3.9 g, 17 mmol, synthesized as described in Rosen, T.; Chu, D. T. W.; Lico, I. M.; Fernandes, P. B.; Marsh, K.; Shen, L.; Cepa, V. G.; Pernet, A. G. J. Med. Chem. 1988, 31, 1598-1611) in EtOH (25 mL). The reaction mixture was sparged with hydrogen and an atmosphere of hydrogen was maintained via balloon. The reaction mixture was stirred for about 2 h at ambient temperature and then was filtered and concd in vacuo. The residue was dissolved in DCM (100 mL), cooled to about 0° C. and TEA (6.01 mL, 43.1 mmol) was added followed by cyclopropanesulfonyl chloride (2.67 g, 19.0 mmol). The reaction mixture was stirred at ambient temperature for about 15 h, saturated aqueous NaHCO3 (50 mL) was added to the reaction mixture and the organic layer was separated, concd in vacuo, and purified by chromatography on silica gel (80 g) eluting with 20-80% EtOAc in heptane to provide (2R,4S)-tert-butyl 4-(cyclopropanesulfonamido)-2-methylpyrrolidine-1-carboxylate (2.55 g, 48%) as an oil: LC/MS (Table 1, Method a) Rt=1.98 min (ELSD); MS m/z: 305 (M+H)+.

reactant | (2R,4S)-tert-butyl 4-azido-2-methylpyrrolidine-1-carboxylate | N(=[N+]=[N-])[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C | C10H18N4O2
reactant | cyclopropanesulfonyl chloride | 19.0 mmol, 2.67 g | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | EtOH | 75 mL | CCO | C2H6O
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
product | (2R,4S)-tert-butyl 4-(cyclopropanesulfonamido)-2-methylpyrrolidine-1-carboxylate | 2.55 g, 48% | C1(CC1)S(=O)(=O)N[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C | C13H24N2O4S
